US05834434
4-amino-2-phenylbenzoyl methionine methyl ester
4-nitro-2-phenylbenzoyl methionine methyl ester (0.35 g, 0.90 mmol) was taken up in ethyl acetate (9.0 ml). To this mixture was added SnCl2 -2H2O (1.02 g, 4.50 mmol) and the reaction was heated under nitrogen at reflux for 1h. The mixture was poured onto ice, the solution was made basic using NaHCO3 and the product was extracted into ethyl acetate several times (7-8). The ethyl acetate fractions were combined washed with brine and dried over Na2SO4 and the solvent was removed in vacuo to give 0.24 g (73.4%) of yellow solid. 1H NMR (CDC13) 1.58-1.70 (1 H, m), 1.80-1.92 (1 H, m), 1.98 (3 H, s), 2.06 (2 H, t, J=7.7 Hz), 3.62 (3 H, s), 4.00 (2 H, br s), 4.56-4.63 (1 H, m), 5.84 (1 H, d, J=7.7 Hz), 6.50 (1 H, s), 6.61 (1 H, d, J=8.4 Hz), 7.29-7.42 (5 H, m), 7.58 (1 H, d, J=8.3 Hz); 13C NMR (CDCl3) 15.02, 29.25, 31.25, 51.57, 52.15, 113.27, 115.88, 123.52, 127.56, 128.37, 128.44, 130.92, 140.66, 141.44, 148.53, 168.58, 171.91.

reactant | 4-nitro-2-phenylbenzoyl methionine methyl ester | 0.90 mmol, 0.35 g | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O | C19H20N2O5S
reactant | SnCl2 | Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 9.0 ml | C(C)(=O)OCC | C4H8O2
product | 4-amino-2-phenylbenzoyl methionine methyl ester | 0.24 g, 73.4% | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | C19H22N2O3S
